US05905076
To a solution of N-benzyloxycarbonyl-L-alanine (1.604 g, 7.188 mmole) and triethylamine (799 mg, 7.91 mmole) in dichloromethane (30 ml), ethyl chloroformate (738 mg, 6.83 mmole) was added at -15° C. The reaction mixture was stirred at -10 to 5° C. for 1.5 hrs. Then a precooled (ca. -15° C.) solution of (3S,4S)-3-amino-4-acetoxy-azetidin-2-one in ethyl acetate (see above) was added at -15° C. and the resulting mixture was stirred at 0° C. to room temperature for 2 hrs. After removal of solvent, the residue was dissolved in ethyl acetate, washed with cold saturated NaHCO3 solution, water, brine and dried over sodium sulfate. After removal of solvent, the residue was recrystallized from dichloromethane and (3S,4S)-3-(N-benzyloxycarbonyl-L-alanyl) amino-4-acetoxy-azetidin-2-one was obtained (1.36 g, 54% yield).

reactant | N-benzyloxycarbonyl-L-alanine | 7.188 mmole, 1.604 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 7.91 mmole, 799 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6.83 mmole, 738 mg | ClC(=O)OCC | C3H5ClO2
reactant | (3S,4S)-3-amino-4-acetoxy-azetidin-2-one | N[C@@H]1C(N[C@H]1OC(C)=O)=O | C5H8N2O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-3-(N-benzyloxycarbonyl-L-alanyl) amino-4-acetoxy-azetidin-2-one | 54% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H]1C(N[C@H]1OC(C)=O)=O | C16H19N3O6
